US09371292B2
Starting material: N4-(4-chloro-3-(trifluoromethyl)phenyl)-7-methoxyquinazoline-4,6-diamine was prepared according to the same method of preparation of N4-(3-chloro-4-fluorophenyl)-7-(2-methoxy)ethoxyquinazoline-4,6-diamine in WO2008/33747, but the starting materials were 4-chloro-7-methoxy-6-nitro-quinazoline and 4-chloro-3-(trifluoromethyl) aniline; other starting materials were prepared as example 1.

reactant | N4-(3-chloro-4-fluorophenyl)-7-(2-methoxy)ethoxyquinazoline-4,6-diamine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)N)OCCOC | C17H16ClFN4O2
reactant | 4-chloro-7-methoxy-6-nitro-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OC | C9H6ClN3O3
reactant | 4-chloro-3-(trifluoromethyl) aniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
product | N4-(4-chloro-3-(trifluoromethyl)phenyl)-7-methoxyquinazoline-4,6-diamine | ClC1=C(C=C(C=C1)NC1=NC=NC2=CC(=C(C=C12)N)OC)C(F)(F)F | C16H12ClF3N4O
